US07960409B2
Step 1: [(4-methoxy-4-tetrahydropyranyl)ethynyl](trimethyl)silane
To a cooled solution (0° C.) of 4-{(trimethylsilyl)ethynyl}tetrahydropyran-4-ol prepared as described in the above example (2.5 g, 12.6 mmol) in a THF-DMF mixture (55 mL, 10:1), sodium hydride (60% suspension in oil, 0.504 g, 12.6 mmol) was added portionwise. After addition, the mixture was stirred 15 minutes before iodomethane (0.788 mL, 12.6 mmol) was added. The temperature was slowly raised to room temperature and the reaction was stirred for another 2 hours. The reaction mixture was then quenched with water and the product was extracted with ethyl acetate (2×). The combined organic layers were diluted with hexanes and washed with water and brine, dried over MgSO4, filtered and concentrated. The crude residue obtained was purified by column chromatography (acetone/dichloromethane, 2:98) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 3.82-3.74 (m, 2H), 3.61-3.54 (m, 2H), 3.34 (s, 3H), 1.90-1.82 (m, 2H), 1.71-1.63 (m, 2H), 0.21 (s, 9H).

reactant | 4-{(trimethylsilyl)ethynyl}tetrahydropyran-4-ol | C[Si](C)(C)C#CC1(CCOCC1)O | C10H18O2Si
reactant | sodium hydride | 12.6 mmol, 0.504 g | [H-].[Na+]
reactant | iodomethane | 12.6 mmol, 0.788 mL | IC | CH3I
solvent | THF DMF | 55 mL | C1CCOC1.CN(C)C=O
product | [(4-methoxy-4-tetrahydropyranyl)ethynyl](trimethyl)silane | COC1(CCOCC1)C#C[Si](C)(C)C | C11H20O2Si
